US04554351
(o) BOC-(D)-Ala-MeLeu-MeLeu-Bzl
17.9 ml (16.4 g=162.4 m mol) N-methylmorpholine are added to a solution of 24.5 g (77.3 m mol) BOC-(D)-Ala-MeLeu-OH dissolved in 200 ml chloroform and the whole is cooled to -20° C. 9.5 ml (9.27 g=77.3 m mol) pivaloyl chloride are then added over 5 minutes and the reaction mixture stirred for 90 minutes, still at -20° C. Anhyride formation is followed by means of IR control and when complete a solution of 18.2 g (77.3 m mol) H-MeLeu-Bzl in 50 ml chloroform is added dropwise at -20° within 5 minutes. A reaction period of 18 hours at -20° C. is required until no more anhydride is present. The obtained solution is poured onto 300 ml water and is extracted in a separating funnel after first diluting with a further 300 ml chloroform. The aqueous phase is extracted with 300 ml chloroform, the combined organic phases dried over sodium sulphate, filtered and evaporated. The residue is chromatographed on 1 kg silica gel (0.063-0.24 mm) using 2% methanol in methylene chloride as eluant to yield the title compound: rotation, [α]D25 =-101.3° (c=0.9 in chloroform).

reactant | N-methylmorpholine | 17.9 ml, 16.4 g | CN1CCOCC1 | C5H11NO
reactant | BOC-(D)-Ala-MeLeu-OH | 24.5 g | N([C@H](C)C(=O)N([C@@H](CC(C)C)C(=O)O)C)C(=O)OC(C)(C)C | C15H28N2O5
reactant | pivaloyl chloride | 9.5 ml, 9.27 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | H-MeLeu-Bzl | 18.2 g | N([C@@H](CC(C)C)C(=O)CC1=CC=CC=C1)C | C14H21NO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 300 ml | O | H2O
product | BOC-(D)-Ala-MeLeu-MeLeu-Bzl | N([C@H](C)C(=O)N([C@@H](CC(C)C)C(=O)N([C@@H](CC(C)C)C(=O)CC1=CC=CC=C1)C)C)C(=O)OC(C)(C)C | C29H47N3O5
